US09238653B2
Step (C) Synthesis of 7-methyl-N-(4-(trifluoromethyl)phenyl)imidazo[1,2-a]pyrimidin-5-amine
4-(trifluoromethyl)aniline (602 mg, 3.74 mmol) was added to the stirred solution of 5-chloro-7-methylimidazo[1,2-a]pyrimidine (522 mg, 3.12 mmol) in excess of absolute ethanol. The reaction mixture was heated intermittently to maintain homogeneity (clear) of the reaction mixture. After stirring overnight at room temperature, the excess ethanol was removed in vacuo and the resultant crude was purified using column chromatography. Yield 0.593 mg (65% yield).

reactant | 4-(trifluoromethyl)aniline | 3.74 mmol, 602 mg | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | 5-chloro-7-methylimidazo[1,2-a]pyrimidine | 3.12 mmol, 522 mg | ClC1=CC(=NC=2N1C=CN2)C | C7H6ClN3
solvent | ethanol | C(C)O | C2H6O
product | 7-methyl-N-(4-(trifluoromethyl)phenyl)imidazo[1,2-a]pyrimidin-5-amine | 65% yield | CC1=NC=2N(C(=C1)NC1=CC=C(C=C1)C(F)(F)F)C=CN2 | C14H11F3N4
